US07834051B2
Ethyl 1-[(1RS,2RS)-2-(dibenzylamino)-1-hydroxypropyl]cyclopropanecarboxylate
A solution of ethyl 1-[2-(dibenzylamino)propanoyl]cyclopropanecarboxylate (1.31 g) in methanol (60 mL) was cooled to 0° C., 90% sodium borohydride (350 mg) was added, and the mixture was stirred at room temperature for 17 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue s was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/0→1/1) to give the title compound as a colorless oil (yield: 1.31 g, 99%).

reactant | ethyl 1-[2-(dibenzylamino)propanoyl]cyclopropanecarboxylate | 1.31 g | C(C1=CC=CC=C1)N(C(C(=O)C1(CC1)C(=O)OCC)C)CC1=CC=CC=C1 | C23H27NO3
reactant | sodium borohydride | 350 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 60 mL | CO | CH4O
product | Ethyl 1-[(1RS,2RS)-2-(dibenzylamino)-1-hydroxypropyl]cyclopropanecarboxylate | yield: 1.31 g, 99% | C(C1=CC=CC=C1)N(C(C(O)C1(CC1)C(=O)OCC)C)CC1=CC=CC=C1 | C23H29NO3
